US06310095B1
To a solution of 1 ml (14.1 mmol) of DMSO in 7 ml of dichloromethane were added 1.48 ml (10.4 mmol) of trifluoroacetic anhydride in 3.5 ml of dichloromethane at −78° C. under a slight stream of argon. After 10 min, 2.35 g (7 mmol) of (2S,4R)-1-Boc-4-[t-butyldimethylsilyloxy]-2-(hydroxymethyl)pyrrolidine, prepared as in Example 171A, in 7 ml of dichloromethane was added to this mixture at the same temperature. The reaction mixture was stirred for 1 hour. To this solution was added 3 ml (21.5 mmol) of triethylamine. The reaction mixture was stirred for 1 hour at −78° C., slowly warmed to room temperature, and concentrated. The residue was chromatographed on silica gel (9:1 hexanes-ethyl acetate to yield 1.08 g (47%) of (2S,4R)-1-Boc-4-[t-butyldimethylsilyloxy]-pyrrolidin-2-aldehyde as an oil:

reactant | DMSO | 14.1 mmol, 1 ml | CS(=O)C | C2H6OS
reactant | trifluoroacetic anhydride | 10.4 mmol, 1.48 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (2S,4R)-1-Boc-4-[t-butyldimethylsilyloxy]-2-(hydroxymethyl)pyrrolidine | 7 mmol, 2.35 g | C(=O)(OC(C)(C)C)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CO | C16H33NO4Si
reactant | triethylamine | 21.5 mmol, 3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-Boc-4-[t-butyldimethylsilyloxy]-pyrrolidin-2-aldehyde | 1.08 g, 47% | C(=O)(OC(C)(C)C)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=O | C16H31NO4Si
